US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
The present compound was synthesized by a method similar to that in Example 226 and using 6-chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid (400 mg) and piperonylamine.

reactant | 6-chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid | 400 mg | ClC=1C=C2C(=C(OC(C2=CC1)=O)C(=O)O)C1=CC=CC=C1 | C16H9ClO4
reactant | piperonylamine | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)O)C2=CC=CC=C2)Cl)=O | C24H16ClNO5
